US07750154B2
Using an analogous procedure to that described in Example 1, methyl 3-{[2-amino-5-(4-isopropylpiperazin-1-yl)benzoyl]amino}-4-methylbenzoate was reacted with triethylorthoformate to give methyl 4-methyl-3-[6-(4 isopropylpiperazin-1-yl)-4-oxoquinazolin-3(4H)-yl]benzoate; NMR Spectrum: (DMSOd6) 1.00 (d, 6H), 2.15 (s, 3H), 2.59 (m, 4H), 2.68 (m, 1H), 3.24 (m, 4H), 3.85 (s, 3H), 7.45 (d, 1H), 7.60 (m, 3H), 7.95 (m, 1H), 8.00 (m, 1H), 8.05 (d, 1H); Mass Spectrum: M+H+ 421.

reactant | methyl 3-{[2-amino-5-(4-isopropylpiperazin-1-yl)benzoyl]amino}-4-methylbenzoate | NC1=C(C(=O)NC=2C=C(C(=O)OC)C=CC2C)C=C(C=C1)N1CCN(CC1)C(C)C | C23H30N4O3
reactant | triethylorthoformate | C(C)OC(OCC)OCC | C7H16O3
product | methyl 4-methyl-3-[6-(4 isopropylpiperazin-1-yl)-4-oxoquinazolin-3(4H)-yl]benzoate | CC1=C(C=C(C(=O)OC)C=C1)N1C=NC2=CC=C(C=C2C1=O)N1CCN(CC1)C(C)C | C24H28N4O3
